US04159979
Boc-Lys(Xys)-OH (124.4 mg, 0.3 m.mol), Nε -benzylsulfonyllysine (90 mg., 0.3 m.mol) and Boc-Lys-(2-Cl-Z)-OH.t-butylamine salt (146.4 mg, 0.3 m.mol) are each treated with hydrogen fluoride (2 ml) in the presence of anisole (0.1 ml) at -20° C. for one hour. After the hydrogen fluoride is distilled off, the residue is dissolved in water (50 ml). An aliquot of the solution is taken and the lysine content of the sample is determined by an amino acid analyzer. The % yields of lysine are calculated.

reactant | Nε -benzylsulfonyllysine | 90 mg | C(C1=CC=CC=C1)S(=O)(=O)NCCCC[C@H](N)C(=O)O | C13H20N2O4S
reactant | Boc-Lys-(2-Cl-Z)-OH | CC(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1Cl)C(=O)O | C19H27ClN2O6
reactant | t-butylamine | 146.4 mg | C(C)(C)(C)N | C4H11N
reactant | hydrogen fluoride | 2 ml | F | FH
reactant | anisole | 0.1 ml | C1(=CC=CC=C1)OC | C7H8O
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
